US07592453B2
N-((1R,2S)-2-{[(4aR*,5R*,10bR*)-5-Phenyl-3,4,4a, 5,6,10b-hexahydrobenzo[h]-1,6-naphthyridin-1(2H)-yl]carbonyl}cyclohexyl)benzamide
TFA (1 ml) was added to tert-butyl ((1R,2S)-2-{[(4aR*,5R*,10bR*)-5-phenyl-3,4,4a, 5,6,10b-hexahydrobenzo[h]-1,6-naphthyridin-1(2H)-yl]carbonyl}cyclohexyl)carbamate (69 mg, 0.14 mmol), and the mixture was stirred at room temperature for 3 min. Ice was added to the reaction solution, and the mixture was basified with 8N aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried (over anhydrous MgSO4), and the solvent was evaporated under reduced pressure. The obtained residue was dissolved in dimethylacetamide (2 ml), benzoyl chloride (28 mg, 0.17 mmol) was added at 0° C., and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with 6% aqueous sodium hydrogen carbonate solution and saturated brine, dried (over anhydrous MgSO4), and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography using silica gel (10 g), and eluted with hexane-ethyl acetate (7:1-3:1, v/v) to give the title compound (45 mg, 65%) as a colorless amorphous form.

reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl ((1R,2S)-2-{[(4aR*,5R*,10bR*)-5-phenyl-3,4,4a, 5,6,10b-hexahydrobenzo[h]-1,6-naphthyridin-1(2H)-yl]carbonyl}cyclohexyl)carbamate | 0.14 mmol, 69 mg | C1(=CC=CC=C1)[C@H]1[C@H]2CCCN([C@H]2C2=C(N1)C=CC=C2)C(=O)[C@@H]2[C@@H](CCCC2)NC(OC(C)(C)C)=O | C30H39N3O3
reactant | sodium hydroxide | 8N | [OH-].[Na+]
reactant | benzoyl chloride | 0.17 mmol, 28 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | Water | O | H2O
product | N-((1R,2S)-2-{[(4aR*,5R*,10bR*)-5-Phenyl-3,4,4a, 5,6,10b-hexahydrobenzo[h]-1,6-naphthyridin-1(2H)-yl]carbonyl}cyclohexyl)benzamide | 45 mg, 65% | C1(=CC=CC=C1)[C@H]1[C@H]2CCCN([C@H]2C2=C(N1)C=CC=C2)C(=O)[C@@H]2[C@@H](CCCC2)NC(C2=CC=CC=C2)=O | C32H35N3O2
